US07153849B2
(2S)-2-{[4-(4-methoxyphenyl)piperazin-1-yl]methyl}-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinoline
This compound was prepared as described for Example 5, using 4-methoxyphenyl piperazine (880 mg, 4.58 mmol) and 742 mg (1.65 mmol) of [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzene-sulfonate, to afford 560 mg (84%) of the title compound as a white solid: mp 164–165° C.; MS (ESI) m/z406 [M+H]+.

reactant | 4-methoxyphenyl piperazine | 4.58 mmol, 880 mg | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzene-sulfonate | 1.65 mmol, 742 mg | BrC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C19H16BrNO5S
product | (2S)-2-{[4-(4-methoxyphenyl)piperazin-1-yl]methyl}-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinoline | 560 mg, 84% | COC1=CC=C(C=C1)N1CCN(CC1)C[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C24H27N3O3
